US05432177
Step 3: 3-(4-(Benzothiophen-2-yl)piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
The title compound was prepared in an analogous manner to Example 6, Step 3 using 1-(benzothiophen-2-yl)piperazine (180 mg, 0.83 mmol) and 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (145 mg, 0.83 mmol). Recrystallisation from ethyl acetatehexane afforded the title compound (155mg, 54%), m.p. 269° C. (dec.); (Found: C, 69.10; H, 5.85; N, 16.08. C20H20N4S requires C, 68.94; H, 5.79; N, 16.08%); δH (DMSO-d6) 2.55 (4H, t, J 5 Hz, 2×piperazinyl CH2), 3.18 (4H, t, J 5 Hz, 2×piperazinyl CH2), 3.70 (2H, s, indole-CH2N), 6.26 (1H, s, 3-H-benzothiophene), 7.04 (2H, m, 2×ArH), 7.19 (1H, m, ArH), 7.05 (2H, m, 2× ArH), 7.63 (1H, d, 8 Hz, ArH), 8.06 (1H, d, 8 Hz, ArH), 8.20 (1H, d, 3 Hz, ArH), and 11.46 (1H, br s, NH); m/z (CI+, NH3) 349 (M+1)+.

reactant | 1-(benzothiophen-2-yl)piperazine | 0.83 mmol, 180 mg | S1C(=CC2=C1C=CC=C2)N2CCNCC2 | C12H14N2S
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 0.83 mmol, 145 mg | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
product | 3-(4-(Benzothiophen-2-yl)piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 155mg, 54% | S1C(=CC2=C1C=CC=C2)N2CCN(CC2)CC2=CNC1=NC=CC=C12 | C20H20N4S
